US07446199B2
Step B: 1H-Pyrrolo[2,3-b]pyridine-5-carboxylic Acid methyl ester
A suspension of 1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid methyl ester (5.4 g, 16 mmol) in MeOH (100 mL) with NaOMe in MeOH (20 mL, 25% wt., excess) was heated at 65° C. for 1 hour. The resulting material was concentrated from MeOH, diluted with H2O (100 mL), and pH adjusted to 6 with 1N HCl. The aqueous solution was partitioned with EtOAc (100 mL) and the organic extraction was dried over Na2SO4 and dried in vacuo. The residue was purified with flash chromatography over silica gel in an elution from 99:1 CH2Cl2:MeOH to 92:8 CH2Cl2:MeOH. Yield 1.8 g, beige powder.

reactant | 1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid methyl ester | 16 mmol, 5.4 g | COC(=O)C=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C16H14N2O4S
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
product | 1H-Pyrrolo[2,3-b]pyridine-5-carboxylic Acid methyl ester | COC(=O)C=1C=C2C(=NC1)NC=C2 | C9H8N2O2
